US07598257B2
1-Benzothien-2-ylboronic acid (0.05 g, 0.0003 mol) and 4-bromo-1-[2-(trimethylsilyl)-ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (0.10 g, 0.00031 mol) were combined in toluene (3.0 mL, 0.028 mol) and ethanol (1.0 mL, 0.017 mol). Potassium carbonate (0.085 g, 0.00062 mol) dissolved in water (1.0 mL) then was added and the reaction was degassed with nitrogen. Then tetrakis(triphenylphosphine)palladium(0) (0.05 g, 0.00004 mol) was added and the reaction was heated to 120° C. in a sealed tube in the microwave for 60 minutes. This was allowed to cool to rt, taken up in ethyl acetate and washed with water 2×, brine, dried over magnesium sulfate and concentrated to give 4-(1-benzothien-2-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]-pyridine (0.10 gm) as an oil, LC/MS (M+H)+ 381.

reactant | 1-Benzothien-2-ylboronic acid | 0.0003 mol, 0.05 g | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
reactant | 4-bromo-1-[2-(trimethylsilyl)-ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.00031 mol, 0.10 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
reactant | toluene | 0.028 mol, 3.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 0.017 mol, 1.0 mL | C(C)O | C2H6O
reactant | Potassium carbonate | 0.00062 mol, 0.085 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1.0 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00004 mol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-benzothien-2-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]-pyridine | 0.10 gm | S1C(=CC2=C1C=CC=C2)C2=C1C(=NC=C2)N(C=C1)COCC[Si](C)(C)C | C21H24N2OSSi
